Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ h/o unknown HR condition on atenolol, psych condition on 
clozapine presenting with choking episode and syncope.

History is obtained through the patient's chart and from the 
family due to language barrier. Per the family, he was eaten 
ramen soup at home and began choking on it. He subsequently 
passed out, hit his head against the refrigerator and was found 
to be limp on the floor. He was noted by family members to be 
cyanotic, so CPR was started by his brother, with consciousness 
returning in approximately ___ minutes. He was noted to be 
somewhat slow and confused after the event, but has been 
improving since that time. There was no incontinence, jerking or 
shaking movements. Per report, he had some liquid coming out of 
his mouth after the event (soup? saliva?) that may have been 
bloody, but this story is somewhat unclear. When EMS arrived, he 
was ambulatory in the kitchen and alert at his baseline, per 
report. He has no history of dysphagia, syncope or aspiration to 
the knowledge of the family.

Family states that he has been otherwise well, without 
infectious symptoms, but has had a chronic cough for which CXR 
was done yesterday at ___ at regularly scheduled appointment. 
CXR showed no significant abnormalities. He denies palpitations, 
chest discomfort, shortness of breath, abdominal pain, visual 
changes or abdominal pain.

In the ED, initial vitals:  T98.4, HR 100, BP 126/74, RR 18, 
SpO296% RA.
Exam was notable for occipital goose egg and evidence of tongue 
bite. Neurological exam was within normal limits.
Labs were significant for WBC 15.4 (75% PMNs) and ALT 43, but 
were otherwise within normal limits. UA with a few bacteria but 
otherwise unremarkable.

Imaging of CT C-spine and head were negative. CXR showed some 
mediastinal crowding with cardiomegaly but was otherwise clear.

In the ED, no medications were given.

Vitals prior to transfer:  T98.3, HR91, BP118/74, RR18, SpO2 95% 
RA. 

Currently, the patient has no complaints, but family notes that 
this is his baseline.
 
 
Past Medical History:
Disorganized schizophrenia - history of aggressive and 
threatening behavior when decompensating
History of vasovagal near syncope with coughing
Sinus tachycardia - normal echo, normal TSH
Hepatitis B , chronic, on viread
Fatty liver disease
Macrocytosis without anemia - normal B12, folate, TSH
Allergic rhinitis
Mild obstructive sleep apnea
History of positive PPD, treated
History of testicle removal - ___
 
 
Social History:
___
Family History:
No history of neurological problems, seizures or serious medical 
problems, according to older brother and mother.
 
Physical Exam:
ADMISSION + DISCHARGE PHYSICAL EXAM
=====================================
VS:  T 99.6, BP 115/65, HR 96, RR 18, SpO2 95%.
GEN: sleeping in bed, occasionally snoring, awakens to voice and 
stimulation, can state name and responds appropriately to family 
members around him 
HEENT: mild swelling on the occiput non-tender to palpation; 
moist MM, no evidence of tongue biting on exam, Mallampati VI 
airway, no palatal deviation, oropharynx is clear; noted to have 
some facial flushing
NECK: able to move with full ROM
PULM: Scattered rhonchi but more so in upper lobes, decent 
respiratory effort, no increased work of breathing, no coughing 
during exam
COR: regular rate, normal rhythm, normal S1 and S2, no murmurs, 
rubs or gallops
ABD: Soft, non-tender, non-distended, normoactive bowel sounds; 
no hepatosplenomegaly  
EXTREM: Warm, well-perfused, no edema  
NEURO: CN II-XII intact, strength ___ in hand grip, biceps, 
deltoids, lower extremities; sensation intact throughout

 
Pertinent Results:
ADMISSION LABS
================

___ 11:30PM BLOOD WBC-15.4* RBC-4.43* Hgb-14.6 Hct-42.3 
MCV-96 MCH-33.0* MCHC-34.5 RDW-11.9 RDWSD-41.5 Plt ___
___ 11:30PM BLOOD Neuts-75.4* Lymphs-16.3* Monos-6.1 
Eos-1.0 Baso-0.6 Im ___ AbsNeut-11.61* AbsLymp-2.51 
AbsMono-0.94* AbsEos-0.15 AbsBaso-0.09*
___ 11:30PM BLOOD Glucose-124* UreaN-11 Creat-0.9 Na-136 
K-3.8 Cl-99 HCO3-23 AnGap-18
___ 11:30PM BLOOD Albumin-4.5
___ 11:30PM BLOOD ALT-43* AST-39 AlkPhos-71 TotBili-0.3
___ 04:00AM URINE Color-Yellow Appear-Clear Sp ___
___ 04:00AM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 04:00AM URINE RBC-3* WBC-1 Bacteri-FEW Yeast-NONE Epi-0

MICROBIOLOGY
==============
___ 4:00 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING
==========
___ CXR
IMPRESSION: 
Low lung volumes with exaggeration of the cardiac silhouette and
bronchovascular crowding.  Within these limitations, no acute 
cardiopulmonary
process.The lower lungs are difficult to evaluate given low lung 
volumes.  If
there is continued concern, repeat radiographs with good 
inspiration should be
obtained.
 
___ Head CT
IMPRESSION:
1. Right parietal scalp soft tissue swelling with small 
subgaleal hematoma no
evidence of fracture.
2. No acute intracranial abnormality.
3. No evidence of acute intracranial hemorrhage or fracture.

___ C-spine CT
IMPRESSION:
1.  Dental almalgam streak artifact limits study.
2. No evidence of acute cervical spinal fracture or traumatic 
malalignment.
3. Right maxillary second molar periodontal disease versus 
dentigerous cyst. 
If clinically indicated, consider further evaluation with dental 
examination.

___ TTE
IMPRESSION: Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
No structural cardiac cause of syncope identified.

 
Brief Hospital Course:
___ with history of sinus tachycardia, vasovagal syncope in the 
setting of coughing, schizophrenia and chronic cough who 
presented from home after syncopal episode after coughing while 
eating. Patient was noted by family to lose consciousness, fall 
backward and have headstrike after eating noodles. No clear 
seizure activity . Awoke with CPR provided by family in the home 
after a few minutes and was shortly thereafter back to baseline. 
Head and C-spine CT were negative, and CXR was clear. ECG showed 
sinus tachycardia, TTE normal and S&S consultation recommended 
normal diet. Of note patient has documented history of vasovagal 
near syncope in the setting of coughing. Chronic cough is being 
evaluated as outpatient. After being able to take PO intake, and 
being observed on telemetry, he was felt to be safe for 
discharge home with close follow-up.

# Syncope: Patient presented from home after syncopal episode 
after coughing while eating. Trigger may have been aspiration 
episode at home leading to hypoxia and collapse. Does have 
history of vaso-vagal syncope in the setting of coughing noted 
in his outside records. Seizure less likely given no jerking 
movements, incontinence, metabolic derangements or intracranial 
lesion, although he was slightly confused afterward (may be 
difficult to assess given psych condition) and may have bitten 
his tongue. He does have a history of a heart arrhythmia (likely 
sinus tachycardia per records), but was in normal sinus during 
admission, and had taken atenolol day prior to admission. No 
evidence of significant head trauma on CT scan. ___ have been 
hypovolemic at the time, but no clear reason for this, and his 
vital signs were within normal limits. No history of drug use. 
TTE was performed to rule out structural cause of syncope and 
returned normal. 

# Aspiration: unclear etiology. No history of dysphagia. Has had 
a chronic cough that may have predisposed him to choking on 
food, but the story for this is not clear. No evidence of 
aspiration on CXR, and is comfortable on room air. He was 
evaluated by Speech and Swallow who cleared him for regular diet 
and thin liquids.

# History of sinus tachycardia: per records, has been worked up 
with TSH and TTE at OSH without clear cause. While inpatient, he 
was in sinus rhythm with rates in the ___, and no events on 
telemetry. Atenolol was held during hospitalization and 
restarted on discharge.

# Chronic cough: patient current smoker with cough for years 
according to records.  Has been worked up with multiple negative 
CXRs, and treated for allergic rhinitis without improvement. 
Does continue to smoke due to behavioral opposition to quitting 
(per mother) which likely contributes to chronic cough. CXR is 
clear on admission here, although quality of inspiration was 
poor. Was supposed to have Pulmonary follow-up as outpatient to 
rule out cough-variant asthma, or some other process. Recommend 
that his outpatient providers consider treatment for GERD as 
possible cause of chronic cause.

# Schizophrenia: appeared to be compensated. Continued home 
meds.

# Allergic rhinitis: continued loratidine and Flonase.

TRANSITIONAL ISSUES:
- consider treatment of GERD as this can cause chronic cough of 
unclear etiology
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 12.5 mg PO DAILY 
2. Tenofovir Disoproxil (Viread) 300 mg PO DAILY 
3. Clozapine 450 mg PO QHS 
4. DiphenhydrAMINE 25 mg PO QHS:PRN cough 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
6. Loratadine 10 mg PO DAILY 
7. ARIPiprazole 15 mg PO QHS 
8. Amantadine 200 mg PO BID 
9. Haloperidol 10 mg PO QAM 
10. Haloperidol 20 mg PO QHS 
11. Clotrimazole Cream 1 Appl TP BID 

 
Discharge Medications:
1. Amantadine 200 mg PO BID 
2. ARIPiprazole 15 mg PO QHS 
3. Clozapine 450 mg PO QHS 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. Haloperidol 10 mg PO QAM 
6. Haloperidol 20 mg PO QHS 
7. Loratadine 10 mg PO DAILY 
8. Tenofovir Disoproxil (Viread) 300 mg PO DAILY 
9. Clotrimazole Cream 1 Appl TP BID 
10. DiphenhydrAMINE 25 mg PO QHS:PRN cough 
11. Atenolol 12.5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: syncope, aspiration
Secondary: schizophrenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you during your recent 
hospitalization at ___. You were admitted after a choking 
episode, fainting and hitting your head. We believe you fainted 
due to coughing while eating and lack of oxygen. We checked your 
heart with an ultrasound and it showed that your heart is 
normal. You had no evidence of injury to your head or neck.

You were also seen by the speech and swallow specialists who 
found that your swallowing is fine. Just be sure to take small 
bites, eat carefully and do not be distracted while eating or 
drinking.

You should follow-up with your regular physicians at ___ 
___ as listed below.

We wish you the best!
- Your ___ Team
 
Followup Instructions:
___